US07893058B2
Step 1: 3-Bromomethyl-thiophene-2-carboxylic acid methyl ester
3-Methyl-thiophene-2-carboxylic acid methyl ester (1 g, 6.4 mmol) is dissolved in CCl4 (15 mL), and NBS (1.19 g, 6.7 mmol) and benzoyl peroxide (15 mg) are added. The reaction mixture is refluxed for 6 hours, then water is added and the mixture is extracted with EtOAc (3×). The organic layers are dried over MgSO4, filtered and concentrated. The crude product is purified by silica gel column chromatography eluting with 98:2 petroleum ether-EtOAc to give the title compound (1.34 g, 27%).

reactant | 3-Methyl-thiophene-2-carboxylic acid methyl ester | 6.4 mmol, 1 g | COC(=O)C=1SC=CC1C | C7H8O2S
reactant | NBS | 6.7 mmol, 1.19 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | O | H2O
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 15 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-Bromomethyl-thiophene-2-carboxylic acid methyl ester | 1.34 g, 27% | COC(=O)C=1SC=CC1CBr | C7H7BrO2S
